US05258382
Preparation of 2-carbamoylmethyl-2-(pyrrol-1-yl)-malonic acid diethyl ester:
A mixture of 2-carboxymethyl-2-(pyrrol-1-yl)-malonic acid diethyl ester (36.0 g), N-hydroxysuccinimide (16.1 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (29.2 g) in dichloromethane (200 ml) was stirred at 25° C. for 1 hour, followed by addition of 7.8% (w/w) ammonia in acetonitrile (110 ml). The resulting mixture was stirred at 25° C. for 1 hour and concentrated under reduced pressure at the same temperature. The residue was dissolved in ethyl acetate. The solution was washed with 5% hydrochloric acid and then with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate/n-hexane to give the title compound (29.0 g, 80.8%) as colorless crystals, mp 94°-95° C.

reactant | 2-carboxymethyl-2-(pyrrol-1-yl)-malonic acid diethyl ester | 36.0 g | C(C)OC(C(C(=O)OCC)(N1C=CC=C1)CC(=O)O)=O | C13H17NO6
reactant | N-hydroxysuccinimide | 16.1 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 29.2 g | Cl.C(C)N=C=NCCCN(C)C
reactant | ammonia | N | H3N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 110 ml | C(C)#N | C2H3N
product | 2-carbamoylmethyl-2-(pyrrol-1-yl)-malonic acid diethyl ester | 29.0 g, 80.8% | C(C)OC(C(C(=O)OCC)(N1C=CC=C1)CC(N)=O)=O | C13H18N2O5
